US07176320B2
212 mg (0.845 mmol) of ((1-methylindole-3-yl)methyl)(2-aminophenyl)amine were dissolved in 1 ml of pyridine followed by the addition of 1 ml (16.9 mmol) of carbon disulfide and refluxing for 1 hour in a nitrogen atmosphere. The solvent was distilled off followed by purification by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 96 mg of 1-((1-methylindole-3-yl)methyl)benzimidazole-2-thiol (yield: 39%).

reactant | ((1-methylindole-3-yl)methyl)(2-aminophenyl)amine | 0.845 mmol, 212 mg | CN1C=C(C2=CC=CC=C12)CNC1=C(C=CC=C1)N | C16H17N3
reactant | carbon disulfide | 16.9 mmol, 1 ml | C(=S)=S | CS2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 1-((1-methylindole-3-yl)methyl)benzimidazole-2-thiol | 96 mg, yield: 39% | CN1C=C(C2=CC=CC=C12)CN1C(=NC2=C1C=CC=C2)S | C17H15N3S
